********************************************************************************
* Software License Agreement *
* *
*© [2021] Microchip Technology Inc. and its subsidiaries *
* *
* Subject to your compliance with these terms, you may use Microchip software *
* and any derivatives exclusively with Microchip products. You are responsible *
* for complying with 3rd party license terms applicable to your use of 3rd *
* party software (including open source software) that may accompany Microchip *
* software. SOFTWARE IS “AS IS.” NO WARRANTIES, WHETHER EXPRESS, IMPLIED OR *
* STATUTORY, APPLY TO THIS SOFTWARE, INCLUDING ANY IMPLIED WARRANTIES OF *
* NON-INFRINGEMENT, MERCHANTABILITY, OR FITNESS FOR A PARTICULAR PURPOSE. IN *
* NO EVENT WILL MICROCHIP BE LIABLE FOR ANY INDIRECT, SPECIAL, PUNITIVE, *
* INCIDENTAL OR CONSEQUENTIAL LOSS, DAMAGE, COST OR EXPENSE OF ANY KIND *
* WHATSOEVER RELATED TO THE SOFTWARE, HOWEVER CAUSED, EVEN IF MICROCHIP HAS *
* BEEN ADVISED OF THE POSSIBILITY OR THE DAMAGES ARE FORESEEABLE. TO THE *
* FULLEST EXTENT ALLOWED BY LAW, MICROCHIP’S TOTAL LIABILITY ON ALL CLAIMS *
* RELATED TO THE SOFTWARE WILL NOT EXCEED AMOUNT OF FEES, IF ANY, YOU PAID *
* DIRECTLY TO MICROCHIP FOR THIS SOFTWARE. *
********************************************************************************
.SUBCKT MCP6496 1 2 3 4 5
*               | | | | |
*               | | | | Output
*               | | | Negative Supply
*               | | Positive Supply
*               | Inverting Input
*               Non-inverting Input
*
*
* The following op-amps are covered by this model:
*      MCP6496/6R/6U/7/9
*
* Date of model creation: 4-26-2023_10:28:40_AM
* Level of Model Creator: MCP6496_1P03 / 04-25-23
*
* Revision History:
*      REV A: 26-Apr-23, Initial Input
*       
*
* Recommendations:
*      Use PSPICE (or SPICE 2G6; other simulators may require translation)
*      For a quick, effective design, use a combination of: data sheet
*            specs, bench testing, and simulations with this macromodel
*      For high impedance circuits, set GMIN=100F in the .OPTIONS statement
*
* Supported:
*      Typical performance for temperature range (-40 to 125) degrees Celsius
*      DC, AC, Transient, and Noise analyses.
*      Most specs, including: offsets, DC PSRR, DC CMRR, input impedance,
*            open loop gain, voltage ranges, supply current, ... , etc.
*      Temperature effects for Ibias, Iquiescent, Iout short circuit 
*            current, Vsat on both rails, Slew Rate vs. Temp and P.S.
*
* Not Supported:
*      Some Variation in specs vs. Power Supply Voltage
*      Vos distribution, Ib distribution for Monte Carlo
*      Distortion (detailed non-linear behavior)
*      Some Temperature analysis
*      Process variation
*      Behavior outside normal operating region
*
* Known Discrepancies in Model vs. Datasheet:
*       
*
*
* Input Stage
*
V10  3 10 -449M
R10 10 11 69.0K
R11 10 12 69.0K
G10 10 11 10 11 1.44M
G11 10 12 10 12 1.44M
C11 11 12 115E-15
M12 11 14 15 15 NMI 
M14 12 2 15 15 NMI 
C12  1  4 6.00P
C14  2  4 6.00P
C13  1 2 2.00P
E12 71 14 VALUE { (0.00) + V(20) * 435M + V(21) * 435M + V(22) * 435M + V(23) * 435M }
EG1 VIBIASP 0 62 0 1u
*
* Convert Voltage to Current on Pin 1
*
GB1 1 0 VIBIASP 0 1
EG2 VIBIASM 0 622 0 1u
*
* Convert Voltage to Current on Pin 2
*
GB2 2 0 VIBIASM 0 1
*
* Temp Sensistive IBias - Split Exponential
*
I6 0 62 DC 1mA
VA200 62A 62 DC 0.00
R17 0 62A REXP  703.80079N
*
* Temp Sensistive IBias - Split Exponential
*
I622 0 622 DC 1mA
VA201 622A 622 DC 0.00
R17A 0 622A REXPM  703.80079N
I15 15 4 500U
V16 16 4 -302M
GD16 16 1 TABLE { V(16,1) } ((-100,-50.0E-18)(0,0)(1m,1u)(2m,1m)) 
V13 3 13 -249M
GD13 2 13 TABLE { V(2,13) } ((-100,-50.0E-18)(0,0)(1m,1u)(2m,1m)) 
R71  1  0 20.0E12
R72  2  0 20.0E12
R73  1  2 20.0E12
*
* Noise 
*
I20 21 20 1.00
D20 20  0 DN1
D21  0 21 DN1
I22 22 23 1N
R22 22 0  1k
R23  0 23 1k
*
* Open Loop Gain, Slew Rate
*
G30  0 30 12 11 1
R30 30  0 1.00K
G31 0 31 3 4 0.00
I31 0 31 DC 120
R31 31 0 1
E_VDDMAX VDE 0 3 4 1
V_VDD1 31VDD1 0 1.8
V_VDD2 31VDD2 0 5.5
G_ABMII2 0 31B VALUE { V(31)*(LIMIT(((V(31VDD1)-V(VDE))/(V(31VDD1)-V(31VDD2))), 0, 1))}
R_R3 31A 0 1 TC=0.00, 0.00
G_ABMII1 0 31A VALUE { V(31)*(LIMIT(((V(VDE)-V(31VDD2))/(V(31VDD1)-V(31VDD2))), 0, 1))}
G_G6 30 31C TABLE { V(30, 31C) } ((-100,-1n)(0,0)(1m,0.1)(101m,190.1))
E_ABM1 31C 0 VALUE { (V(31A) + V(31B)) }
R_R8 31B 0 1 TC=0.00, 0.00
G32 32 0 3 4 0.00
I32 32 0 DC 136
R32 32  0 1 
G_ABMII22 32B 0 VALUE { V(32)*(LIMIT(((V(31VDD1)-V(VDE))/(V(31VDD1)-V(31VDD2))), 0, 1))}
R_R23 32A 0 1 TC=0.00, 0.00
G_ABMII21 32A 0 VALUE { V(32)*(LIMIT(((V(VDE)-V(31VDD2))/(V(31VDD1)-V(31VDD2))), 0, 1))}
G_G26 32C 30 TABLE { V(30, 32C) } ((-101m,190.1)(-1m,0.1)(0,0)(100,-1n))
E_ABM21 0 32C VALUE { (V(32A) + V(32B)) }
R_R28 32B 0 1 TC=0.00, 0.00
G6  0 33 30 0 1m
R6  33 0 1K
*
* 1st Order Pole
*
G34  0 34 33 0 3.16
R34  34 0 1K
C34  34 0 12.7U
*
* 2nd Order Pole
*
G37  0 37 34 0 1m
R37  37 0 1K
C37  37 0 707E-15
*
* 1st Order Zero
*
G38  0 38 37 0 1m
GR38  39 0 39 0 1m
RR38  39 0 100G
L38  38 39 159N
E38  35 0 38 0 1
*
* Output Stage
*
R80 50 0 100MEG
VR58 57 96 0
R58X 57 96 1G
F1 0 50 VR58 1
R57 57  0 90.0
* PSRR / CMRR 
G57  0 57 VALUE { V(35) * 11.1M + V(118) + V(127) + V(137) } 
*
* PSRR Plus Gain and GBWP Pole Neutralization and Wave Shaping 
*
* G30 THE DC GAIN FOR +PSRR 
G110 0 110 3 0 35.1U
* ADD POLE TO NEUTRALIZE GBWP ZERO
R110 110 0 10T 
GR110 110 0 110 0 1M 
C110 110 0 12.7U
*
* PSRR Plus Pole 
*
G111 0 111 110 0 1 
L111 111 112 1.59
R112 112 0 10T 
GR112 112 0 112 0 1 
*
* PSRR Plus Zero 
*
G114 0 114 111 0 1 
R114 114 0 10T 
C114 114 0 159M
GR114 114 0 114 0 1 
*
* PSRR Plus 2nd Pole 
*
G115 0 115 114 0 1 
L115 115 116 212U
R116 116 0 1G 
GR116 116 0 116 0 1 
*
* PSRR Plus 2nd Zero 
*
G117 0 117 115 0 1 
R117 117 0 1G 
C117 117 0 159P
GR117 117 0 117 0 1 
*
* PSRR Plus 3rd Pole 
*
G118 0 118 117 0 1 
L118 118 119 159P
R119 119 0 1G 
GR119 119 0 119 0 1 
*
* PSRR Minus Gain and GBWP Pole Neutralization and Wave Shaping 
*
* G40 THE DC GAIN FOR -PSRR 
G120 0 120 4 0 35.1U
* ADD POLE TO NEUTRALIZE GBWP ZERO
R120 120 0 10T 
GR120 120 0 120 0 1M 
C120 120 0 12.7U
*
* PSRR Minus Pole 
*
G121 0 121 120 0 1 
L121 121 122 1.59
R122 122 0 10T 
GR122 122 0 122 0 1 
*
* PSRR Minus Zero 
*
G124 0 124 121 0 1 
R124 124 0 10T 
C124 124 0 159M
GR124 124 0 124 0 1 
*
* PSRR Minus 2nd Pole 
*
G125 0 125 124 0 1 
L125 125 126 212U
R126 126 0 1G 
GR126 126 0 126 0 1 
*
* PSRR Minus 2nd Zero 
*
G1217 0 127 125 0 1 
R127 127 0 1G 
C127 127 0 159P
GR127 127 0 127 0 1 
*
* CMRR Gain and GBWP Pole Neutralization and Wave Shaping 
*
* G50 THE DC GAIN FOR CMRR 
G130 0 130 VALUE { ( V(15) ) * 88.2U}
* Add Zero To Neutralize GBWP Pole
R130 130 0 1G 
GR130 130 0 130 0 1m 
C130 130 0 12.7U
*
* CMRR Pole 
*
G131 0 131 130 0 1 
L131 131 132 1.59
R132 132 0 1G 
GR132 132 0 132 0 1 
*
* CMRR Zero 
*
G133 0 133 131 0 1 
R133 133 0 1G 
C133 133 0  159M
GR133 133 0 133 0 1 
*
* CMRR 2nd Pole
*
G134 0 134 133 0 1 
L134 134 135 122U
R135 135 0 1G 
GR135 135 0 135 0 1 
*
* CMRR 2nd Zero 
*
G137 0 137 134 0 1 
R137 137 0 1G 
C137 137 0  265N
GR137 137 0 137 0 1 
*
GD55 55 57 TABLE { V(55,57) } ((-0.2m,-400)(-0.1m,-1m)(0,0)(10,1n))
GD56 57 56 TABLE { V(57,56) } ((-0.2m,-400)(-0.1m,-1m)(0,0)(10,1n))
E55 55  0 VALUE { 0.00 + V(3) * 1 + V(51) * -12.6M }
E56 56  0 VALUE { 0.00 + V(4) * 1 + V(52) * -12.3M }
R51 51 0 1k
R52 52 0 1k
GD51 50 51 TABLE { V(50,51) } ((-10,-1n)(0,0)(1m,1m)(2m,1))
GD52 50 52 TABLE { V(50,52) } ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
G53  3  0 VALUE { -500U + V(51) * 1M }
G54  0  4 VALUE { -500U + V(52) * -1M }
*
* Current Limit
*
GD98A 98 98A TABLE { V(98,98A) } ((-3m,-1000)(-2m,-10)(-1m,-1)(0,0)(1,1n))
GD98B 98 98B TABLE { V(98,98B) } ((-1,-1n)(0,0)(1m,1)(2m,10)(3m,1000))
R98A 0 98A 1 TC=-3.57M,7.86U
R98B 0 98B 1 TC=-3.69M,11.6U
R98 98 0 1G
G99 96 5 99 0 1
G97 0 98 TABLE { V(96,5) } ((-11.0,-11.00M)(-1.00M,-8.92M)(0,0)(1.00M,7.92M)(11.0,7.50M))
E97 99 0 VALUE { V(98) * LIMIT((( V(3) - V(4) ) * 1.00 + -500M), 0.00, 1E6 ) * LIMIT((( V(3) - V(4) ) * 1.25 + -875M), 0, 1) }
D98 4 5 DESD
D99 5 3 DESD
*
* Temperature / Voltage Sensitive IQuiscent
*
R61 0 61 1 TC=-88.8U,7.95U
G61 3 4 61 0 1
G60 0 61 TABLE { V(3, 4) } ((0, 0)(700M,19.2U)(870M,500U)(1.3,1.7M)(1.4,1.8M)(1.5,1.84M)(2.00,1.87M)
+ (3.00,1.88M)(4.5,1.92M)(6.00,1.9M))
*
* Temperature Sensitive offset voltage
*
I73 0 70 DC 1
R74 0 70 1 TC=600N
E75 1 71 VALUE {V(70)-1}
*
* Secondary Rev Recovery Clamp
*
G57X  0 57X VALUE { V(35) * 11.1M + V(118) + V(127) + V(137) } 
R57X 57X  0 90.0
G35X 33 0 TABLE { V(57X,3) } ((-1,-1p)(0,0)(2450M,1n)(2.5,1))
G36X 33 0 TABLE { V(57X,4) } ((-2.5,-1)(-2450M,-1n)(0,0)(1,1p))
*
* Models
.MODEL NMI NMOS(L=2.00U W=42.0U KP=200U LEVEL=1 )
.MODEL DESD  D   N=1 IS=1.00E-15
.MODEL DN1 D   IS=1P KF=930P AF=1
.MODEL REXP  RES TCE= 13.76462
.MODEL REXPM  RES TCE= 13.76462

.ENDS MCP6496




